Name:  ___)          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Bactrim / Cephalexin / Nitrofurantoin / Dilantin 
Kapseal / Tegretol / Iodine-Iodine Containing / Phenobarbital / 
furosemide / Lyrica / ranitidine / gabapentin
 
Attending: ___.
 
Chief Complaint:
Confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old woman with a PMH significant for HTN, HLD, CAD, 
paroxysmal afib, hemorrhagic stroke, renal transplant in ___ on 

tacrolimus, diverticulosis, recurrent UTIs, and chronic back 
pain (wheelchair bound at baseline), who presented from her 
facility with fatigue, malaise and concern for acute confusion. 
She was recently hospitalized at ___ from ___ - ___ and diagnosed with an E. coli
UTI in the setting of pyuria and confusion and fatigue.  She was
treated with a combination of antibiotics including meropenem 
and
ceftriaxone and ultimately discharged on oral cefpodoxime to 
take
a 14 day course which ended on ___.

During the hospitalization she was also seen by psychiatry for
toxic metabolic encephalopathy and agitation and she received
olanzapine in the hospital and was discharged on to be continued
for a week.  She also had A. fib with RVR and received oral
metoprolol and was not anticoagulated despite an elevated chads 
2
vascular score of 4.  Her discharge creatinine was at baseline 
of
1.3.  Tacrolimus dosing at discharge was 0.5 mg twice daily for 
a
goal level of ___.  At rehab her medication administration 
record
includes that she is prescribed 1 mg of tacrolimus in the 
morning
and 0.5 mg in the evening.

Nursing documentation from her nursing home describes transfer 
to
the hospital setting for altered mental status with confusion 
and
shaking and vital signs of 124/70 pulse of 73 respiratory rate 
22
temperature 98.

Her ED course was notable for lack of any signs of sepsis given
lack of fever tachycardia or leukocytosis.  She received
transplant surgery and transplant nephrology consultation and
received a dose of IV ciprofloxacin after urine culture was
obtained.  Imaging performed in the emergency department 
included
chest x-ray CT had an renal ultrasound that all did not show any
focal abnormalities or acute signs of illness.

Currently the patient denies any focal complaints other than
chronic multiple years long-duration back pain.  She says it has
not been exacerbated recently and that she has no complaints of
dysuria or fever.

Notable changes made at the nursing home include discontinuation 

of fentanyl patch 100 mcg every 72 hours and
initiation of oxycodone 10 mg every 12 hours with oxycodone 5 mg
every 4 hours as needed for breakthrough pain.  She was 
receiving
oral cefpodoxime 200 mg every 12 hours until ___.

ROS: 10pt ROS otherwise negative unless mentioned in HPI

 
Past Medical History:
-s/p cadaveric renal transplant: ___,
-ESRD ___ chronic reflux nephropathy, baseline Cr 1.3
-acute interstitial nephritis ___ presumably from ranitidine
-polyneuropathy in renal disease
-anemia of chronic disease
-CAD: NSTEMI ___, s/p cardiac cath without intervention
-paroxysmal atrial fibrillation
-hypertension
-hyperlipidemia
-diastolic dysfunction
-h/o DVT
-hypothyroidism
-osteopenia ___ chronic steroid use
-s/p craniotomy for intracranial hemorrhage
-GERD
-osteonecrosis of bilateral feet c/b osteomyelitis
-osteonecrosis of L hip requiring surgical intervention and
girdlestone procedure
-s/p cholecystecomy, s/p appendectomy
-small intestinal adenoma with endoscopic resection c/b bowel
perforation requiring ex-lap in ___
-cataract surgery
-MRSA osteomyelitis ___
-h/o C.diff
-recurrent urinary tract infection
-panic disorder associated with sexual trauma at age ___
-hearing loss of both ears
-h/o depression
-h/o duodenal polyps
-chronic pain (polyosteoarthritis, osteonecrosis of L hip,
osteoarthritis of R hip, spinal stenosis, low back pain with
sciatica)
-h/o herpes zoster

 
Social History:
___
Family History:
Father died of CAD at age ___. 
Mother died young of unknown causes.
 
Physical Exam:
ADMISSION EXAM:
___ 0837 Temp: 98.4 PO BP: 124/74 HR: 85 RR: 18 O2 sat: 99%
O2 delivery: RA 
She is awake alert to me but somewhat disoriented and slow to
answer basic questions.  She struggled with naming the year and
said it was 20.  She paused and then said it was ___.  She
incorrectly said it was ___.  She could not answer that we
just celebrated ___ ___.
She was awake during the entire interview and focus on various
periods of her health including past episodes of low back pain.
She understood that she is at a rehab in ___ chronically. 
She understands that she is in the hospital but vague about the
location within the hospital.
Her facial features are symmetric her lips are somewhat dry
Her breath sounds are clear bilaterally there is no coughing
her pulse is regular
Her abdomen is soft and nontender without any guarding
There is bilateral hyperpigmentation to both calves
She does not have any pitting edema
She moves her arms to greet me and can shake my hand.

DISCHARGE EXAM:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
Gen:  Elderly woman, lying in bed, pleasant, NAD
Lung:  easy WOB, CTAB anteriorly
CV RRR, no JVD
Abd: soft, NT, ND, NABS
___:  ++ hyperpigmentation over the shins, wrapping over RLE 
above
ankle, trace edema
Neuro:  Alert to person, hospital, year. She is tangential.
 
Pertinent Results:
ADMISSION LABS:
___ 02:05AM BLOOD WBC-8.2 RBC-4.30 Hgb-11.6 Hct-38.4 MCV-89 
MCH-27.0 MCHC-30.2* RDW-15.9* RDWSD-51.4* Plt ___
___ 02:05AM BLOOD Glucose-73 UreaN-23* Creat-1.8* Na-138 
K-4.3 Cl-100 HCO3-21* AnGap-17

Urine Cx ___
 URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed fecal flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      PSEUDOMONAS AERUGINOSA.    10,000-100,000 CFU/mL. 
      ENTEROCOCCUS SP..    >100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PSEUDOMONAS AERUGINOSA
                             |          ENTEROCOCCUS SP.
                             |          |   
AMPICILLIN------------             =>32 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
LINEZOLID-------------                2 S
MEROPENEM-------------   0.5 S
NITROFURANTOIN--------               64 I
PIPERACILLIN/TAZO-----   <=4 S
TETRACYCLINE----------             =>16 R
TOBRAMYCIN------------   <=1 S
VANCOMYCIN------------             =>32 R

Blood culture ___ 2:05 am BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      ENTEROCOCCUS FAECIUM.    FINAL SENSITIVITIES. 
         Daptomycin MIC OF 2 MCG/ML test result performed by 
Etest. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS FAECIUM
                             |   
AMPICILLIN------------  =>32 R
DAPTOMYCIN------------       S
LINEZOLID-------------     2 S
PENICILLIN G----------  =>64 R
VANCOMYCIN------------  =>32 R

   Aerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ @ ___ ON 
___ - ___. 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

___ and ___ blood cultures are negative to date.

DISCHARGE LABS:
___ 07:20AM BLOOD WBC-5.4 RBC-4.03 Hgb-10.9* Hct-34.8 
MCV-86 MCH-27.0 MCHC-31.3* RDW-16.1* RDWSD-50.4* Plt ___
___ 07:20AM BLOOD Neuts-46.4 ___ Monos-10.7 Eos-3.9 
Baso-0.9 Im ___ AbsNeut-2.51 AbsLymp-1.97 AbsMono-0.58 
AbsEos-0.21 AbsBaso-0.05
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD Glucose-84 UreaN-13 Creat-1.1 Na-142 
K-4.2 Cl-103 HCO3-25 AnGap-14
___ 07:20AM BLOOD Calcium-10.3 Phos-2.8 Mg-2.3
___ 07:20AM BLOOD tacroFK-6.___ year old woman with a PMH significant for HTN, HLD, CAD, 
paroxysmal afib, hemorrhagic stroke, renal transplant in ___ on 
 tacrolimus, diverticulosis, recurrent UTIs, and chronic back  
pain (wheelchair bound at baseline), who presented from her  
facility with fatigue, malaise and concern for acute confusion. 
She was started on antibiotics for UTI and bacteremia, give 
fluids for ARF.

___ year old woman with a PMH significant for HTN, HLD, CAD, 
paroxysmal afib, hemorrhagic stroke, renal transplant in ___ on 

tacrolimus, diverticulosis, recurrent UTIs and chronic back 
pain (wheelchair bound at baseline), who presented from her 
facility with fatigue, malaise and acute confusion, found to 
have
UTI, bacteremia and acute kidney injury.

# UTI:  
- Urine culture from ___ with pseudomonas and VRE, ___ blood 
cultures also positive for VRE
- She was treated with IV narrowed to PO antibiotics with a plan 
to complete a total of 7 days of both PO ciprofloxacin and PO 
linezolid 
- Last day of antibiotics is ___
- Please monitor for signs and symptoms of serotonin syndrome 
while the patient is on linezolid and duloxetine
- She will follow-up with Infectious Disease as an outpatient 
given her history of recurrent UTIs

# VRE Bacteremia
- This is thought to be from a urinary source
- As only ___ bcx positive, low likelihood of developing 
endocarditis
- Repeat cultures ___ and ___ with no growth to date
- Appreciate ID consult
- Continue cipro and linezolid as above

# Toxic Metabolic encephalopathy ___ infection, hospital
delirium:  
- Patient presented with confusion and had symptoms of paranoid 
thinking and mild agitation during her first few days in the 
hospital
- This delirium was thought to be from acute infection and 
hospital delirium
- These symptoms improved daily and resolved at the time of 
discharge

# Acute renal failure 
- Creatinine was elevated at 1.8 at admission with a baseline of 
1.3.  
- Her kidney function improved with IV fluid administration and 
was at her baseline (1.1) at discharge

# History of Renal transplant
- Tacro level 7.2 on ___, 6.5 on ___ stable
- Her tacrolimus trough goal is ___
- Nephrology was following her during this admission
- Continue tacro 0.5 mg q12
- Continue prednisone 5 mg daily and acyclovir
- Please check a repeat tacrolimus level and chemistry in 1 week 
(approx. ___
- Fax results to Nephrologist Dr. ___ at ___

# Back pain:  
- Her dose of oxycodone was decreased due to altered mental 
status.  Her pain was controlled on oxycodone 5 mg q 4 hours prn 
and we recommend continuing at this dose.

# CAD and A. fib 
- Not systemically anticoagulated (presumably d/t hx of 
hemorrhagic CVA)
- Continue home aspirin, rosuvastatin and metoprolol daily

# Hypothyroidism - continue synthroid

# Anxiety, Depression - duloxetine.  She is at risk for 
serotonin syndrome while she is on both duloxetine and 
linezolid.

Code: DNR/DNI, MOLST stated ___ signed by the patient
PPx: Subcutaneous heparin

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 0.5 mg PO BID:PRN anxiety 
2. Tizanidine 4 mg PO TID:PRN muscle spasms 
3. Acyclovir 400 mg PO Q12H 
4. Rosuvastatin Calcium 40 mg PO QPM 
5. Levothyroxine Sodium 88 mcg PO DAILY 
6. PredniSONE 5 mg PO DAILY 
7. Tacrolimus 0.5 mg PO QPM 
8. Vitamin D 1000 UNIT PO DAILY 
9. Vitamin E 1000 UNIT PO DAILY 
10. Calcitriol 0.25 mcg PO BID 
11. Sucralfate 1 gm PO TID:PRN abdominal pain 
12. Acetaminophen 650 mg PO QAM 
13. Aspirin 81 mg PO DAILY 
14. DULoxetine 30 mg PO DAILY 
15. Metoprolol Succinate XL 25 mg PO DAILY 
16. Lidocaine 5% Ointment 1 Appl TP BID 
17. Multivitamins 1 TAB PO DAILY 
18. Ascorbic Acid ___ mg PO BID 
19. DICYCLOMine 10 mg PO TID 
20. GuaiFENesin 10 mL PO Q6H:PRN cough/cold symptoms 
21. Ondansetron 4 mg PO Q6H:PRN nausea 
22. Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line 
23. Bisacodyl ___AILY:PRN Constipation - Second Line 
24. Omeprazole 40 mg PO BID 
25. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
26. Tacrolimus 1 mg PO QAM 
27. Vitamin A 8000 UNIT PO DAILY 
28. OxyCODONE (Immediate Release) 10 mg PO BID 
29. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN BREAKTHROUGH 
PAIN 

 
Discharge Medications:
1.  Ciprofloxacin HCl 250 mg PO Q24H 
RX *ciprofloxacin HCl [Cipro] 250 mg 1 tablet(s) by mouth daily 
Disp #*5 Tablet Refills:*0 
2.  Linezolid ___ mg PO Q12H Duration: 5 Days 
Last day ___ 
RX *linezolid ___ mg 1 tablet(s) by mouth q12 Disp #*11 Tablet 
Refills:*0 
3.  Tacrolimus 0.5 mg PO Q12H 
RX *tacrolimus 0.5 mg 1 capsule(s) by mouth q12 Disp #*60 
Capsule Refills:*0 
4.  Acetaminophen 650 mg PO QAM  
5.  Acyclovir 400 mg PO Q12H  
6.  Ascorbic Acid ___ mg PO BID  
7.  Aspirin 81 mg PO DAILY  
8.  Bisacodyl ___AILY:PRN Constipation - Second Line  
9.  Calcitriol 0.25 mcg PO BID  
10.  DICYCLOMine 10 mg PO TID  
11.  DULoxetine 30 mg PO DAILY  
12.  GuaiFENesin 10 mL PO Q6H:PRN cough/cold symptoms  
13.  Levothyroxine Sodium 88 mcg PO DAILY  
14.  Lidocaine 5% Ointment 1 Appl TP BID  
15.  Metoprolol Succinate XL 25 mg PO DAILY  
16.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Second 
Line  
17.  Multivitamins 1 TAB PO DAILY  
18.  Omeprazole 40 mg PO BID  
19.  Ondansetron 4 mg PO Q6H:PRN nausea  
20.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN BREAKTHROUGH 
PAIN  
21.  PredniSONE 5 mg PO DAILY  
22.  Rosuvastatin Calcium 40 mg PO QPM  
23.  Sucralfate 1 gm PO TID:PRN abdominal pain  
24.  Vitamin A 8000 UNIT PO DAILY  
25.  Vitamin D 1000 UNIT PO DAILY  
26.  Vitamin E 1000 UNIT PO DAILY  
27. HELD- OxyCODONE (Immediate Release) 10 mg PO BID  This 
medication was held. Do not restart OxyCODONE (Immediate 
Release) until you are seen by your outpatient doctors
28. HELD- OxyCODONE (Immediate Release) 10 mg PO BID  This 
medication was held. Do not restart OxyCODONE (Immediate 
Release) until seen by your doctors
29.Outpatient Lab Work
Check chemistry 7 and tacrolimus trough in 1 week (___)

Fax results to Dr. ___ at ___

ICD: Renal transplant (___.0)

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1  UTI
2 Renal transplant
3 Altered mental status

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted with confusion and were found to have a 
urinary tract infection and a blood stream infection.  We 
suspect the urinary tract infection was the initial source and 
this then spread into the blood stream.  You improved with 
antibiotics.  At discharge, please take antibiotics 
ciprofloxacin and linezolid for an additional 6 days (last day 
___.  While your are taking linezolid, you are at risk for 
development of serotonin syndrome.  Signs of serotonin syndrome 
include fever, agitation, sweating, diarrhea, dilated pupils, 
increased reflexes.   If you experience these symptoms, please 
stop linezolid and duloxetine and come to the Emergency 
Room/call your doctor.
 
Followup Instructions:
___